US04839360
To a stirred mixture of 2.95 g of 6-(4-chlorophenyl)-1-(4-methoxyphenyl)-2-piperidone, 3 ml of ethanethiol, and 50 ml of methylene chloride was added, under ice-cooling 5.06 g of anhydrous aluminum chloride. After stirring at room temperature for 1 hour, the mixture was poured into ice-cold water and extracted with chloroform. The extract was washed with an aqueous sodium hydrogen carbonate solution and a saturated aqueous sodium chloride solution, dried, and concentrated. The residue was recrystallized from a mixture of ethyl acetate and n-hexane to give 2.75 g of 6-(4-chlorophenyl)-1-(4-hydroxyphenyl)-2-piperidone as colorless needles.

reactant | 6-(4-chlorophenyl)-1-(4-methoxyphenyl)-2-piperidone | 2.95 g | ClC1=CC=C(C=C1)C1CCCC(N1C1=CC=C(C=C1)OC)=O | C18H18ClNO2
reactant | ethanethiol | 3 ml | C(C)S | C2H6S
reactant | aluminum chloride | 5.06 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 6-(4-chlorophenyl)-1-(4-hydroxyphenyl)-2-piperidone | 2.75 g, Yield: 97% | ClC1=CC=C(C=C1)C1CCCC(N1C1=CC=C(C=C1)O)=O | C17H16ClNO2
